US08791267B2
Synthesis of 5-(2-Methoxy-5-[1,2,4]triazol-1-ylmethyl-phenyl)-benzo[1,2,5]oxadiazole (P-481).
A suspension of 1-(3-Bromo-4-methoxy-benzyl)-1H-[1,2,4]triazole (I-104, 402 mg, 1.50 mmol), benzo[1,2,5]oxadiazole-5-boronic acid (I-105, 246 mg, 1.50 mmol), palladium(0) bis(dibenzylideneacetone) (43 mg, 0.075 mmol), and triphenyl phosphine (39.3 mg, 0.15 mmol) in dimethylformamide (15 mL) and 1 M aqueous cesium carbonate (4.5 mL, 4.5 mmol) was heated to 85° C. with stirring overnight. The solvent was removed under vacuum and the residue suspended in ethyl acetate (15 mL). The organic suspension was washed with water (3×15 mL) and brine, dried over sodium sulfate, decolorized over activated carbon, filtered, and the solvent removed under vacuum to give crude material. The residue was purified by recyrstalization from dichloromethane (2 mL) and hexanes (10 mL) to give P-481 (180 mg, 39% yield). 1H NMR (400 MHz, CDCl3) δ ppm 3.88 (s, 4H) 5.51 (s, 2H) 7.06 (d, J=7.8 Hz, 1H) 7.41-7.54 (m, 3H) 7.59 (d, J=9.3 Hz, 1H) 7.71-8.03 (m, 3H) 8.25 (s, 1H) 9.34 (br. s., 1H), LCMS=95.7% purity.

reactant | 1-(3-Bromo-4-methoxy-benzyl)-1H-[1,2,4]triazole | 1.50 mmol, 402 mg | BrC=1C=C(CN2N=CN=C2)C=CC1OC | C10H10BrN3O
reactant | benzo[1,2,5]oxadiazole-5-boronic acid | 1.50 mmol, 246 mg | N1=C2C(=NO1)C=C(C=C2)B(O)O | C6H5BN2O3
reactant | triphenyl phosphine | 0.15 mmol, 39.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cesium carbonate | 4.5 mmol, 1 M, 4.5 mL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
catalyst | palladium(0) bis(dibenzylideneacetone) | 0.075 mmol, 43 mg | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
product | 5-(2-Methoxy-5-[1,2,4]triazol-1-ylmethyl-phenyl)-benzo[1,2,5]oxadiazole | 39% yield | COC1=C(C=C(C=C1)CN1N=CN=C1)C=1C=CC=2C(=NON2)C1 | C16H13N5O2
